US07041695B2
Preparation of N,N-Dimethyl-2-(6H-thieno[2,3-b]pyrrol-4-yl)ethylamine
A stirred N,N-dimethyl-2-(6H-thieno[2,3-b]pyrrol-4-yl]acetamide (1.16 g, 6 mmol) in THF is treated with LiALH4 (18 mL of 1M solution in THF, 3 equiv.) at room temperature, stirred at 40° C. for 2 h, cooled to room temperature, quenched with aqueous NaOH and extracted with EtOAc. The extracts are combined, dried over MgSO4 and concentrated in vacuo to afford the title product as a tan oil, 0.81 g (89% yield), identified by HPLC and mass spectral analyses.

reactant | N,N-dimethyl-2-(6H-thieno[2,3-b]pyrrol-4-yl]acetamide | 6 mmol, 1.16 g | CN(C(CC=1C2=C(NC1)SC=C2)=O)C | C10H12N2OS
solvent | THF | C1CCOC1 | C4H8O
product | N,N-Dimethyl-2-(6H-thieno[2,3-b]pyrrol-4-yl)ethylamine | 89% yield | CN(C)CCC=1C2=C(NC1)SC=C2 | C10H14N2S
